US04243683
A solution of n-butyl lithium (5.88 g) in hexane (48 ml) and anhydrous diethyl ether (70 ml) was added to a stirred solution of dimethyl methylphosphonate (11.4 g) in anhydrous tetrahydrofuran (50 ml) at -50° C. in an atmosphere of nitrogen during 20 minutes. The solution was stirred for a further 15 minutes at -60° C., and was then treated with a solution of ethyl 3-(3-trifluoromethylphenyl)-propionate (11.3 g) in anhydrous tetrahydrofuran (20 ml) during 10 minutes at -60° C. The solution was stirred at -60° C. for 90 minutes and then at ambient temperature for 2 hours. The solution was then treated with acetic acid (10 ml) and the solvents were evaporated off under reduced pressure. Water (75 ml) was added to the resulting gelatinous residue and the mixture was extracted with diethyl ether. The ethereal solution was washed with water, with aqueous sodium bicarbonate solution (10% w/v), and with water, dried over magnesium sulphate, and evaporated. The residue was distilled to give dimethyl 4-(3-trifluoromethylphenyl)-2-oxobutylphosphonate (7.4 g) in the form of a colourless oil, b.p. 157°-159° C./0.2 mm Hg. [elemental analysis: C, 48.3; H, 5.1; P, 9.8%. C13H16F3O4P requires C, 48.15; H, 5.0; P, 9.55%. νmax 1035, 1125, 1165, 1265, 1330, 1555 and 1720 cm-1 ].

reactant | n-butyl lithium | 5.88 g | C(CCC)[Li]
reactant | dimethyl methylphosphonate | 11.4 g | CP(OC)(OC)=O | C3H9O3P
reactant | ethyl 3-(3-trifluoromethylphenyl)-propionate | 11.3 g | FC(C=1C=C(C=CC1)CCC(=O)OCC)(F)F | C12H13F3O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | hexane | 48 ml | CCCCCC | C6H14
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | dimethyl 4-(3-trifluoromethylphenyl)-2-oxobutylphosphonate | 7.4 g | FC(C=1C=C(C=CC1)CCC(CP(OC)(OC)=O)=O)(F)F | C13H16F3O4P
